US07309703B2
4-(2,6-Dinitro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (220 mg, 0.63 mmol) was dissolved in 5.0 mL of CH2Cl2 and treated with 3.0 mL of trifluoroacetic acid. The reaction mixture was stirred at 25° C. for 1 h before all volatiles were removed. The solid was treated with CH2Cl2 (20 mL) and aqueous KOH (4 N, 10 mL). The organic layer was separated, dried over Na2SO4, and concentrated. The crude oil (67 mg) was dissolved in absolute EtOH (1.2 mL) and treated with 141 mg (0.35 mmol, 1.3 eq) of 5-methanesulfonyl-1-oxiranylmethyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine. The reaction mixture was refluxed at 85° C. for 3 h and then the solvent was removed. Column chromatography purification (silica, 10-20% acetone/CH2Cl2) provided 150 mg (85%) of 1-[4-(2,6-dinitro-phenyl)-piperazin-1-yl]-3-[5-methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propan-2-ol. TLC (silica, 10% acetone/CH2Cl2): Rf=0.3. MS (electrospray): exact mass calculated for C27H30F3N7O7S, 653.19; m/z found, 654.2 [M+H]+. 1H NMR (400 MHz, CDCl3): 7.71 (d, J=8.2 Hz, 2H), 7.64 and 7.58 (AB pattern, J=8.4 Hz, 4H), 7.20 (t, J=8.2 Hz, 1H), 4.54 (s, 2H), 4.29-4.12 (m, 2H), 3.66 (t, J=5.3 Hz, 2H), 3.70-2.95 (m, 9H), 2.91 (s, 3H), 2.67-2.32 (m, 4H).

reactant | 4-(2,6-Dinitro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.63 mmol, 220 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC=C1[N+](=O)[O-])[N+](=O)[O-] | C15H20N4O6
reactant | trifluoroacetic acid | 3.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 5-methanesulfonyl-1-oxiranylmethyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine | 0.35 mmol, 141 mg, 1.3 eq | CS(=O)(=O)N1CC2=C(CC1)N(N=C2C2=CC=C(C=C2)C(F)(F)F)CC2OC2 | C17H18F3N3O3S
solvent | CH2Cl2 | 5.0 mL | C(Cl)Cl | CH2Cl2
product | 1-[4-(2,6-dinitro-phenyl)-piperazin-1-yl]-3-[5-methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propan-2-ol | 150 mg, 85% | [N+](=O)([O-])C1=C(C(=CC=C1)[N+](=O)[O-])N1CCN(CC1)CC(CN1N=C(C=2CN(CCC21)S(=O)(=O)C)C2=CC=C(C=C2)C(F)(F)F)O | C27H30F3N7O7S
